US06069176
Acetic acid (1 ml) and PtO2 (160 mg) were added to a solution of (R)-2-amino-1-(3-chlorophenyl) ethanol (600 mg) and 4-phenylcyclohexanone (610 mg) in methanol (30 ml), and hydrogen addition was carried out at room temperature. After consumption of the starting materials, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. Separation and purification by silica gel column chromatography (chloroform:methanol=30:1) gave 43 mg of (1R)-1-(3-chlorophenyl)-2-(4-phenylcyclohexylamino) ethanol (4.0% yield).

reactant | Acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | (R)-2-amino-1-(3-chlorophenyl) ethanol | 600 mg | NC[C@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | 4-phenylcyclohexanone | 610 mg | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | PtO2 | 160 mg | O=[Pt]=O
product | (1R)-1-(3-chlorophenyl)-2-(4-phenylcyclohexylamino) ethanol | 43 mg, 4.0% yield | ClC=1C=C(C=CC1)[C@H](CNC1CCC(CC1)C1=CC=CC=C1)O | C20H24ClNO
